US05075467
477.9 g (2.2 mol) of N-benzal-2,4-difluoroaniline are reacted at -10° C. with 248.8 g (1.0 mol) of titanocene dichloride analogously to Example 1, method A, to give bis(cyclopentadienyl)bis[2,6-difluoro-3-(N -benzalamino)phenyl]titanium. When the yellow-brown suspension produced has reached room temperature, it is evaporated on a vacuum rotary evaporator. The residue is taken up in 3000 ml of methylene chloride and clarified over Hyflo. The filtrate is re-evaporated. The residue is dissolved in 2000 ml of ethyl acetate, and 2000 ml of 2N hydrochloric acid solution are added. After hydrolysis has been carried out by stirring the mixture for 3 hours, the phases are separated. The organic phase is extracted three times with 200 ml of 2N hydrochloric acid solution in each case. The aqueous phases are combined and washed once with 500 ml of ethyl acetate. 500 ml of ethanol are added to the water phase, and the mixture is then neutralized using 30% sodium hydroxide solution with cooling at 10°-15° C. The mixture is then cooled to 5° C. The red-brown suspension produced is filtered and dried at 40° C. in vacuo, to give 391.8 g (90.2% of theory) of orange-red crystals which melt at 250° C. with decomposition.

reactant | N-benzal-2,4-difluoroaniline | 2.2 mol, 477.9 g | C(C1=CC=CC=C1)=NC1=C(C=C(C=C1)F)F | C13H9F2N
reactant | titanocene dichloride | 1.0 mol, 248.8 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Ti+2]
product | bis(cyclopentadienyl)bis[2,6-difluoro-3-(N -benzalamino)phenyl]titanium | C1(C=CC=C1)[Ti](C1=C(C(=CC=C1F)N=CC1=CC=CC=C1)F)(C1=C(C(=CC=C1F)N=CC1=CC=CC=C1)F)C1C=CC=C1 | InChI=1S/2C13H8F2N.2C5H5.Ti/c2*14-11-6-7-13(12(15)8-11)16-9-10-4-2-1-3-5-10;2*1-2-4-5-3-1;/h2*1-7,9H;2*1-5H;
